* state machine example
* by Marcel Hendrix, Jan. 10th, 2014

* Define a simple up/down counter that counts clk edges.
* Digital outputs are on msb+lsb.
*   inputs  clock   reset     outputs (all digital)
a0  [n_one]  clk    n_zero   [msb lsb]   state1
*.model state1 d_state(state_file = "D:\Software\Spice\various\xspice\state.in")
.model state1 d_state(state_file = "state.in")

* Digital "one" and "zero"
a1 n_one pullup1
.model pullup1 d_pullup(load = 1pF)
a2 n_zero pulldown1
.model pulldown1 d_pulldown(load = 1pF)

* Convert the digital outputs to analog so we can conveniently plot them
a3 [msb] [out_msb] dac1
a4 [lsb] [out_lsb] dac1
.model dac1 dac_bridge(out_low = 0 out_high = 5 out_undef = 2.5)

* The digital VCO needs an analog control voltage
Vcnt cntl 0  pulse(-1V 1V 0 5ms 4ms 1ms 1)

* Digital VCO to drive state-machine (counter)
a5 cntl clk var_clock
.model var_clock d_osc(cntl_array = [-2 -1 1 2] freq_array = [1e3 1e3 10e3 10e3]
+ duty_cycle = 0.1)

.control
tran 1us 10ms
rusage
write spifsim.raw
plot cntl out_msb+2 out_lsb+8
eprvcd n_one clk n_zero msb lsb > spifsim.vcd
* plotting the vcd file (e.g. with GTKWave)
* For Windows: returns control to ngspice
shell start gtkwave spifsim.vcd --script $inputdir/nggtk.tcl
* Others
*shell gtkwave spifsim.vcd --script nggtk.tcl &
.endc

.end
